US05864039
4-Aminomethyl-1-tert-butoxycarbonylpiperidine (10.0 g) was dissolved in dimethylformamide and 4-amino-5-chloro-2-methoxybenzoic acid (9.4 g) and 1-hydroxybenzotriazole (6.6 g) were added. After stirring at 0° C. for 40 min, 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (9.4 g) was added, and the mixture was stirred at room temperature for 24 hr. The reaction mixture was concentrated under reduced pressure. Aqueous potassium carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 19.0 g of 4-amino-5-chloro-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-2-methoxybenzamide.

reactant | 4-Aminomethyl-1-tert-butoxycarbonylpiperidine | 10.0 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 9.4 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-hydroxybenzotriazole | 6.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 9.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-2-methoxybenzamide | 19.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1Cl)OC | C19H28ClN3O4
